US07449475B2
N-Cyclopropyl-2-[(2S)-oxiran-2-ylmethoxy]4-(trityloxy)benzamide
A mixture of (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (119 mg, 0.459 mmol), N-cyclopropyl-2-hydroxy-4-(trityloxy)benzamide (200 mg, 0.459 mmol) and cesium carbonate, Cs2CO3, (186.2 mg, 0.573 mmol) in dimethylformamide (3 mL) was kept on stirring at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulphate, Na2SO4, filtered, concentrated and the residue was purified by silica gel flash chromatography (0-40% ethyl acetate in petroleum ether) to give the subtitled compound (160 mg).

reactant | (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 0.459 mmol, 119 mg | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | N-cyclopropyl-2-hydroxy-4-(trityloxy)benzamide | 0.459 mmol, 200 mg | C1(CC1)NC(C1=C(C=C(C=C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)=O | C29H25NO3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Cs2CO3 | 0.573 mmol, 186.2 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-Cyclopropyl-2-[(2S)-oxiran-2-ylmethoxy]4-(trityloxy)benzamide | 160 mg | C1(CC1)NC(C1=C(C=C(C=C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC[C@H]1OC1)=O | C32H29NO4
